US07119209B2
A 0.1 L flask fitted with a thermometer, condenser, beating mantle, nitrogen inlet and magnetic stirring was charged with, 3.0 g 5-Bromooxindole, 3.03 g 4-(1H-imidazol-1-ylcarbonyl)-3,5-dimethyl-1H-pyrrole-2-carbaldehyde, 3.24 g N,N-Diethylethylene diamine, 4.23 g Triethylamine and 30 ml Tetrahydrofuran. The mixture was heated to 60-65° C. for 8 hours, then cooled to ambient temperature. 10 ml Tetrahydrofuran was added to aid stirring and the reaction mixture was filtered. Drying provided 3.7 g (57.7%) first crop of 5-[(Z)-(5-bromo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)methyl]-N-[2-(diethylamino)ethyl]-2,4-dimethyl-1H-pyrrole-3-carboxamide. The mother liquors are cooled to −10° C. for 6 h for an additional 1.9 g (29.6%). 1HNMR (DMSO): δ 8.08 (1H, s); 7.75 (1H, s); 7.41 (1H, s); 7.24 (1H, d); 6.81 (1H, d); 3.31 (4H, bs); 2.46 (14H, bm); 0.96 (6H, t).

reactant | 5-Bromooxindole | 3.0 g | BrC=1C=C2CC(NC2=CC1)=O | C8H6BrNO
reactant | 4-(1H-imidazol-1-ylcarbonyl)-3,5-dimethyl-1H-pyrrole-2-carbaldehyde | 3.03 g | N1(C=NC=C1)C(=O)C=1C(=C(NC1C)C=O)C | C11H11N3O2
reactant | N,N-Diethylethylene diamine | 3.24 g | C(C)N(CCN)CC | C6H16N2
reactant | Triethylamine | 4.23 g | C(C)N(CC)CC | C6H15N
solvent | Tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | Tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 5-[(Z)-(5-bromo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)methyl]-N-[2-(diethylamino)ethyl]-2,4-dimethyl-1H-pyrrole-3-carboxamide | BrC=1C=C2/C(/C(NC2=CC1)=O)=C/C1=C(C(=C(N1)C)C(=O)NCCN(CC)CC)C | C22H27BrN4O2
